US08466176B2
To a stirred solution of 3-[(hydroxyimino)(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline (1.25 g, 5.07 mmol) in acetonitrile (50 mL), were added cesium carbonate (3.47 g, 10.6 mmol), potassium iodide (421 mg, 2.53 mmol) and 2-bromo-4-bromomethyl-thiazole (1.44 g, 5.58 mmol). The resulting suspension was stirred at 25° C. for 4 h and 30 minutes. After cooling, the suspension was filtered, the filtrate was diluted with ethyl acetate (250 mL), washed with water (2×100 mL), dried over MgSO4 and concentrated in vacuo. Purification on silica gel afforded 3-[{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline as an oil [1.83 g, yield 86%;

reactant | 3-[(hydroxyimino)(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline | 5.07 mmol, 1.25 g | ON=C(C=1C=C(N(C)C)C=CC1)C1=NN=NN1C | C11H14N6O
reactant | cesium carbonate | 10.6 mmol, 3.47 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 2.53 mmol, 421 mg | [I-].[K+]
reactant | 2-bromo-4-bromomethyl-thiazole | 5.58 mmol, 1.44 g | BrC=1SC=C(N1)CBr | C4H3Br2NS
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-[{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline | yield 86% | BrC=1SC=C(N1)CON=C(C=1C=C(N(C)C)C=CC1)C1=NN=NN1C | C15H16BrN7OS
